US07750150B2
(2) Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2-(2-methoxyethoxy)-4-(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide monohydrochloride
2-[4-[2-(Benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2-(2-methoxyethoxy)-4-(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide (500 mg, 0.86 mmol) was dissolved in ethanol (10 mL), followed by the addition of pyridine hydrochloride (198 mg, 1.71 mmol). The reaction mixture was concentrated, and to the residue, ethanol (0.2 mL) and water (2 mL) were added. A precipitate was collected by filtration to afford the title compound (134 mg, 25.2%) as a colorless crystalline powder.

reactant | 2-[4-[2-(Benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2-(2-methoxyethoxy)-4-(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide | 0.86 mmol, 500 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCCOC | C26H32F3N5O5S
reactant | pyridine hydrochloride | 1.71 mmol, 198 mg | Cl.N1=CC=CC=C1
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-[2-(2-methoxyethoxy)-4-(2,2,2-trifluoroethoxy)-6-methyl-3-pyridyl]acetamide monohydrochloride | 134 mg, 25.2% | Cl.O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2OCC(F)(F)F)C)OCCOC | InChI=1S/C26H32F3N5O5S.ClH/c1-18-15-21(38-17-26(27,28)29)23(24(30-18)37-13-12-36-2)32-22(35)16-34-9-7-33(8-10-34)11-14-40-25-31-19-5-3-4-6-20(19)39-25;/h3-6,15H,7-14,16-17H2,1-2H3,(H,32,35);1H
